US04209616
Thien-3-yl-glyoxylic acid
To a mixture of ethyl thien-3-yl-glyoxylate (10 g) and 2 N-sodium hydroxide (50 ml) was added sufficient methanol to produce a homogeneous solution, and the reaction was allowed to stand at room temperature for one hour. The solution was poured into water, extracted with ether, acidified with 2 N-hydrochloric acid and extracted with ether. The combined extracts were dried and evaporated to give an oil which was triturated with benzene-petroleum ether, and the resulting solid filtered and dried (7.5 g; 88%), m.p. 63°, νmax. (Nujol) 3600 and 1702 cm-1 (CO2H), τ (DMSO-d6) values include 1.29, 2.21, 2.38 (thien-3-yl protons).

reactant | ethyl thien-3-yl-glyoxylate | 10 g | S1C=C(C=C1)C(C(=O)OCC)=O | C8H8O3S
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | Thien-3-yl-glyoxylic acid | S1C=C(C=C1)C(C(=O)O)=O | C6H4O3S
